US07141672B2
Step c) N-{4′-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-ylmethyl}-hydroxylamine
Hydrochloric acid (4 N, in dioxane, 10 mL) was added dropwise into a mixture of 4′-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-carbaldehyde oxime (1.5 g, 3.56 mmol), sodium cyanoborohydride (1.1 g, 17.81 mmol), methyl alcohol (100 mL), and tetrahydrofuran (100 mL). The reaction mixture was stirred for 1 hour poured into water, basified with sodium hydroxide (2 N), and extracted with ethyl acetate. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography on silica gel (EtOAc/MeOH 20:1) gave an off-white solid (1.21 g, 80% yield); MS m/e 424 (M+);

reactant | Hydrochloric acid | 4 N, 10 mL | Cl | ClH
reactant | 4′-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-carbaldehyde oxime | 3.56 mmol, 1.5 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)C=NO | C24H17F3N2O2
reactant | sodium cyanoborohydride | 17.81 mmol, 1.1 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | methyl alcohol | 100 mL | CO | CH4O
product | N-{4′-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-ylmethyl}-hydroxylamine | 1.21 g, 80% yield | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)CNO | C24H19F3N2O2
